US04220779
38.4 g (0.19 mol) of 2-dichloromethyl-phenyl isocyanate are allowed to run into a suspension of 135 g (0.43 mol) of Ba(OH)2 ×8H2O in 500 ml of water, at 15°-18° C. whilst stirring vigorously (with the aid of a baffle and an impeller stirrer). The mixture is stirred for a further 30-40 minutes at this temperature and about 95 ml of 10% strength hydrochloric acid are added dropwise to the reaction mixture, at 3°-5° C., until the pH is 5-6, CO2 being evolved. After the evolution of CO2 has subsided, the reaction mixture is rendered alkaline with 4 ml of 50% strength NaOH. After removing the external cooling bath, 25 g (0.25 mol) of acetylacetone are then allowed to run in dropwise in the course of 15-30 minutes and the mixture is stirred for a further 4-6 hours at room temperature. It is then filtered and the filter residue is taken up in methanol and warmed to 40° C. After cooling, the undissolved barium salt is filtered off and the filtrate is evaporated. After drying in a desiccator, 33 g (94% of theory) of 3-acetyl-3-hydroxy-quinaldine with a melting point of 54°-56° C. are obtained.

reactant | 2-dichloromethyl-phenyl isocyanate | 0.19 mol, 38.4 g | ClC(C1=C(C=CC=C1)N=C=O)Cl | C8H5Cl2NO
reactant | hydrochloric acid | Cl | ClH
reactant | CO2 | C(=O)=O | CO2
reactant | NaOH | [OH-].[Na+]
reactant | acetylacetone | 0.25 mol, 25 g | C(C)(=O)CC(C)=O | C5H8O2
solvent | water | 500 ml | O | H2O
product | 3-acetyl-3-hydroxy-quinaldine | 33 g, 94% | C(C)(=O)C1(C(N=C2C=CC=CC2=C1)C)O | C12H13NO2
